US04477447
A solution of 3-chloroperbenzoic acid (0.9 g) in methylene chloride (10 ml) was dropwise added to a stirred solution of 2-n-octyloxy-1-n-octyloxymethylethyl 7-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-2-cephem-4-carboxylate (syn isomer, 3.0 g) in methylene chloride (30 ml) at -7° to -3° C. over 30 minutes, and then stirred at 0° C. for 35 minutes. The resultant mixture was washed with a diluted aqueous solution of sodium bicarbonate and saturated aqueous solution of sodium chloride in turn, and dried over anhydrous magnesium sulfate. After removing the solvent from the solution in vacuo, the residue was subjected to column chromatography on silica gel (120 g) with a mixture of chloroform and methanol (20:1). The eluate was evaporated in vacuo to give powder [2.44 g] of 2-n-octyloxy-1-n-octyloxymethylethyl 7-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate-1-oxide (syn isomer).

reactant | 3-chloroperbenzoic acid | 0.9 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 2-n-octyloxy-1-n-octyloxymethylethyl 7-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-2-cephem-4-carboxylate | 3.0 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(C=CS2)C(=O)OC(COCCCCCCCC)COCCCCCCCC)C1=O)=NOC | C33H51N5O8S2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 2-n-octyloxy-1-n-octyloxymethylethyl 7-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate-1-oxide | 2.44 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2=O)C(=O)OC(COCCCCCCCC)COCCCCCCCC)C1=O)=NOC | C33H51N5O9S2
